US08067448B2
2-Chloro-4-((1R,2S)-2-hydroxy-1-(5-(4-(hydroxymethyl)phenyl)-1,3,4-oxadiazol-2-yl)propylamino)-3-methylbenzonitrile
To a pre-cooled (−50° C.) solution of 4-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-(4-((tert-butyldimethylsilyloxy)methyl)phenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile (4.35 g, 6.93 mmol) in THF (600 mL) was added TBAF (13.87 mL, 13.87 mmol, 1 M solution in THF) dropwise over 10 min. Upon complete addition, the reaction mixture was concentrated under reduced pressure. The resulting residue was taken up in EtOAc (100 mL) and washed with H2O (80 mL). The biphasic mixture was separated and the aqueous layer extracted with EtOAc (2×100 mL). The combined organic layers were washed with brine (1×70 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to provide a yellow oil, which was purified by flash chromatography over silica gel (65% EtOAc in hexanes then EtOAc to provide the title compound as an off-white solid. The resulting solid was diluted with CH2Cl2 (30 mL) and hexanes (70 mL) was added. Upon concentration of the suspension a white solid was provided (2.4 g, 87%). 1H NMR (400 MHz, acetone-d6, δ in ppm) 7.98 (d, J=8.8 Hz, 2H), 7.57 (d, J=9 Hz, 2H), 7.47 (d, J=9 Hz, 1H), 6.84 (d, J=9 Hz, 1H), 5.69 (d, J=8 Hz, 1H), 5.11-5.05 (m, 1H), 4.74-4.71 (m, 2H), 2.40 (s, 3H) and 1.40 (d, J=7 Hz, 3H).

reactant | 4-((1R,2S)-2-(tert-butyldimethylsilyloxy)-1-(5-(4-((tert-butyldimethylsilyloxy)methyl)phenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile | 6.93 mmol, 4.35 g | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C=1OC(=NN1)C1=CC=C(C=C1)CO[Si](C)(C)C(C)(C)C)NC1=C(C(=C(C#N)C=C1)Cl)C)C | C32H47ClN4O3Si2
reactant | TBAF | 13.87 mmol, 1 M, 13.87 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | 2-Chloro-4-((1R,2S)-2-hydroxy-1-(5-(4-(hydroxymethyl)phenyl)-1,3,4-oxadiazol-2-yl)propylamino)-3-methylbenzonitrile | ClC1=C(C#N)C=CC(=C1C)N[C@H]([C@H](C)O)C=1OC(=NN1)C1=CC=C(C=C1)CO | C20H19ClN4O3
